US06358980B1
A mixture of diethanolamine (2.1 g, 20 mmol), 4-(2-piperidin-1-yl-ethoxy)-benzyl chloride (5.9 g, 20 mmol) and KCO3 (10 g, excess) was refluxed in acetone (100 ml) for 24 hrs. At the end, reaction mixture was cooled to room temperature and filtered. It was concentrated to dryness and redissolved in touene (200 ml) and thionyl chloride (6.75 g, 50 mmol). It was heated to 80° C. for 1 hr and the separated brown solid, bis-(2-chloro-ethyl)-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-amine was filtered and dried. The crude product was taken to next step with out purification. Yield: 7.0 g, (89%). 4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethylester was was prepared according to the general method as outlined in example 1 (step 6), starting from ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate (2.9 g, 10.0 mmol) and bis-(2-chloro-ethyl)-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-amine dihydrochloride (4.3 g, 10 mmol), 2.8 g of product (brown oil) was isolated. Yield 48%; MS: 583 (M+H)+

reactant | diethanolamine | 20 mmol, 2.1 g | N(CCO)CCO | C4H11NO2
reactant | 4-(2-piperidin-1-yl-ethoxy)-benzyl chloride | 20 mmol, 5.9 g | N1(CCCCC1)CCOC1=CC=C(CCl)C=C1 | C14H20ClNO
reactant | thionyl chloride | 50 mmol, 6.75 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate | 10.0 mmol, 2.9 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | bis-(2-chloro-ethyl)-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-amine dihydrochloride | 10 mmol, 4.3 g | Cl.Cl.ClCCN(CC1=CC=C(C=C1)OCCN1CCCCC1)CCCl
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethylester | Yield 48% | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C32H42N2O6S
